US05525602
To a solution of 0.5 g of methyl (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate in 5 ml of dichloromethane is added 0.5 ml of trifluoroacetic anhydride. After 1 hour the reaction is partitioned between water and dichloromethane. The organic layer is washed twice with water, dried over magnesium sulfate, and concentrated to give methyl (E)-6-[1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-trifluoroacetylaminoisobenzofuran-5-yl]-4-methyl-4-hexenoate.

reactant | methyl (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 0.5 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O | C19H25NO4
reactant | trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methyl (E)-6-[1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-trifluoroacetylaminoisobenzofuran-5-yl]-4-methyl-4-hexenoate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)NC(C(F)(F)F)=O)C/C=C(/CCC(=O)OC)\C | C21H24F3NO5
